US08357703B2
6-((3-Cyclohexyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-ethyl)-nicotinamide
As described for example 31e, 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (708 mg, 1.5 mmol) was converted, using ethanolamine instead of isopropylamine, to the title compound (55 mg, 10%) which was obtained as a light yellow oil after purification by chromatography (silica, 0 to 5% methanol in dichloromethane). MS: m/e=360.4 [M+H]+.

reactant | 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.5 mmol, 708 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCCC1)=O | C18H22N2O4
reactant | ethanolamine | C(O)CN | C2H7NO
product | 6-((3-Cyclohexyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-ethyl)-nicotinamide | 55 mg, 10% | C1(CCCCC1)C1=NOC(=C1COC1=NC=C(C(=O)NCCO)C=C1)C | C19H25N3O4
